US07777038B2
50 mg of 1-(4-bromobenzyl)-5-(4-oxo-2-thioxothiazolidine-5-ylidenemethyl)-3,4-dihydro-1H-quinolin-2-one was suspended in a mixed solvent of 0.15 ml of methanol, 0.1 ml of water, 0.08 ml of an aqueous 1 N-sodium hydroxide solution, and 0.1 ml of THF. 0.03 ml of a DMF (5 ml) solution of 42 mg of cobalt chloride 6-hydrate and 250 mg of dimethylglyoxime was further added to the suspension, and the mixture was heated to 30° C. to 40° C. An aqueous solution (0.1 ml) of 15 mg of sodium borohydride was added, followed by stirring for 30 minutes. A saturated aqueous potassium hydrogensulfate solution was added, the mixture was extracted with ethyl acetate, and the extract was washed with water. The extract was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by preparative silica gel thin layer chromatography (ethyl acetate:n-hexane=1:1) to give 44.7 mg (89% yield) of 1-(4-bromobenzyl)-5-(4-oxo-2-thioxothiazolidin-5-ylmethyl)-3,4-dihydro-1H-quinolin-2-one as a colorless amorphous solid, and further recrystallized from ethyl acetate-diethyl ether, giving a white powder.

reactant | 1-(4-bromobenzyl)-5-(4-oxo-2-thioxothiazolidine-5-ylidenemethyl)-3,4-dihydro-1H-quinolin-2-one | 50 mg | BrC1=CC=C(CN2C(CCC3=C(C=CC=C23)C=C2C(NC(S2)=S)=O)=O)C=C1 | C20H15BrN2O2S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylglyoxime | 250 mg | CC(C(=NO)C)=NO | C4H8N2O2
reactant | sodium borohydride | 0.1 ml, 15 mg | [BH4-].[Na+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | DMF | 0.03 ml | CN(C)C=O | C3H7NO
solvent | THF | 0.1 ml | C1CCOC1 | C4H8O
solvent | water | 0.1 ml | O | H2O
solvent | methanol | 0.15 ml | CO | CH4O
product | 1-(4-bromobenzyl)-5-(4-oxo-2-thioxothiazolidin-5-ylmethyl)-3,4-dihydro-1H-quinolin-2-one | 44.7 mg, 89% yield | BrC1=CC=C(CN2C(CCC3=C(C=CC=C23)CC2C(NC(S2)=S)=O)=O)C=C1 | C20H17BrN2O2S2
